US04384126
A solution of 1,1-ethylenedioxy-2-(4'-hydroxybutyl)-2-methylcyclohexane (26 g, 0.136 mol.) in benzene (100 ml) is added to a suspension of sodium hydride (6.53 g, 0.272 mol; 13.05 g of a 50% mineral oil dispersion freshly washed with pentane and benzene) in benzene (500 ml) in a nitrogen atmosphere. After 30 minutes benzylbromide (35 g, 020 mol) in benzene (100 ml) is added and the mixture is heated at reflux for 20 hours. The reaction mixture is cooled to room temperature and diluted with water (100 ml) and ether (500 ml). The organic layers are separated and washed with satd. NaCl (2×400 ml) and dried (MgSO4). The solvents are removed under reduced pressure and the crude product is chromatographed on SilicAR CC-7 (575 g) in hexane. Elution with 5% ethyl acetate/hexane gives 2-(4'-benzyloxybutyl)-1,1-ethylenedioxy-2-methylcyclohexane as a slightly yellowish oil (32.45 g, 90%): nmr (CDCl3)δ0.98 (s, 3H, CH3), 3.5 (t, 2H, --O--CH2 --CH2), 3.98 (s, 4H, ketal) 4.44 (s, 2H, O--CH2 --Ph), 7.3 (s, 5H, aromatic).

reactant | 1,1-ethylenedioxy-2-(4'-hydroxybutyl)-2-methylcyclohexane | 0.136 mol, 26 g | C1OC2(C(CCCC2)(C)CCCCO)OC1 | C13H24O3
reactant | sodium hydride | [H-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-(4'-benzyloxybutyl)-1,1-ethylenedioxy-2-methylcyclohexane | C(C1=CC=CC=C1)OCCCCC1(C2(CCCC1)OCCO2)C | C20H30O3
